US07419984B2
6-(2,3-Dichloro-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 53, 4-chloro-6-(2,3-dichloro-phenyl)-pyrimidin-2-ylamine and 4-chloroaniline provided the title compound (42% yield). 1H NMR (CD3OD) δ 6.19 (s, 1H, Ar), 7.29 (d, 2H, Ar), 7.31 (d, 2H, Ar) 7.4 (d, 1H, Ar) 7.55 (d, 2H, Ar).

reactant | 4-chloro-6-(2,3-dichloro-phenyl)-pyrimidin-2-ylamine | ClC1=NC(=NC(=C1)C1=C(C(=CC=C1)Cl)Cl)N | C10H6Cl3N3
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 6-(2,3-Dichloro-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 42% yield | ClC1=C(C=CC=C1Cl)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl | C16H11Cl3N4
